US04128659
Using the method of Example 1, step A, 5-hydroxyindane is reacted with α-chloroacetophenone in benzene in the presence of sodium carbonate to provide α-(5-indenoxy)acetophenone as a yellow solid.

reactant | 5-hydroxyindane | OC=1C=C2CCCC2=CC1 | C9H10O
reactant | α-chloroacetophenone | ClCC(=O)C1=CC=CC=C1 | C8H7ClO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | α-(5-indenoxy)acetophenone | C1C=CC2=CC(=CC=C12)OCC(=O)C1=CC=CC=C1 | C17H14O2
